Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Lightheadedness 
 
Major Surgical or Invasive Procedure:
Bone marrow biopsy 

 
History of Present Illness:
Ms. ___ is a pleasant ___ w/ IBS, anemia who presents with
new diagnosis of waldenstrom's macroglobulinemia and serum
viscosity 4.1. 

Patient reports having a diagnosis of anemia for years for which
she received iron pills. She was recently referred to heme/onc
for further workup and saw Dr. ___ at ___. He was
concerned about hyperviscosity and referred her to the ED for
expedited inpatient management. 

She endorses a history of lightheadedness that has been ongoing
for the past few years, typically orthostatic in nature. However
more recently she has become lightheaded more frequently, and it
occurs with exercise as well and lasts several seconds before 
she
is able to gather herself. No presyncope/syncope. Denies changes
in vision, nose bleeding. She is fairly active and denied any
chest pain, SOB, DOE. Denied any N/V, no ___. She has IBS so
bowel movements irregular but no abd pain. 
 
Past Medical History:
low BP (SBP ___
lwo HR (resting HR ___
depression
IBS
iron deficiency
s/p tubal ligation
s/p appendectomy
 
Social History:
___
Family History:
mother died of multiple myeloma
her mother had NHL for ___ years before myeloma
father had ___ disease

 
Physical Exam:
Admission Exam:
=============
VITAL SIGNS: 98.3 PO 147 / 80 67 18 99 RA
General:  NAD, Resting in bed comfortably with family at bedside
HEENT:  MMM, no OP lesions, no macroglossia, no thrush
CV:  RR, NL S1S2 no S3S4 No MRG
PULM:  CTAB, No C/W/R, No respiratory distress
ABD:  BS+, soft, NTND, no peritoneal signs 
LIMBS: WWP, no ___, no tremors
SKIN:  No notable rashes on extremities
NEURO: CN III-XII intact, strength b/l ___ intact
PSYCH: Thought process logical, linear, future oriented
ACCESS: LUE PIV

Discharge Exam:
============
98.4 131 / ___
General:  NAD, Resting in bed comfortably with family at bedside
HEENT:  MMM, no OP lesions, no macroglossia, no thrush
CV:  RR, NL S1S2 with ___ systolic murmur
PULM:  CTAB, No C/W/R, No respiratory distress
ABD:  BS+, soft, NTND, no peritoneal signs 
LIMBS: WWP, no ___, no tremors
SKIN:  No notable rashes on extremities
NEURO: CN III-XII intact, strength b/l ___ intact
PSYCH: Thought process logical, linear, future oriented
ACCESS: LUE PIV
 
Pertinent Results:
Admission Labs:
============
___ 11:15PM   GLUCOSE-92 UREA N-21* CREAT-0.9 SODIUM-137 
POTASSIUM-4.0 CHLORIDE-100 TOTAL CO2-27 ANION GAP-10
___ 11:15PM   ALT(SGPT)-9 AST(SGOT)-12 LD(LDH)-78* ALK 
PHOS-109* TOT BILI-0.3
___ 11:15PM   TOT PROT-9.1* ALBUMIN-3.3* GLOBULIN-5.8* 
CALCIUM-9.4 PHOSPHATE-3.2 MAGNESIUM-2.0 IRON-37
___ 11:15PM   calTIBC-239* VIT B12-730 FOLATE-15 
HAPTOGLOB-207* FERRITIN-58 TRF-184*
___ 11:15PM   TSH-3.9
___ 11:15PM   HBsAg-NEG HBs Ab-NEG HBc Ab-NEG
___ 11:15PM   PEP-ABNORMAL B b2micro-2.3* IgG-314* IgA-<5* 
IgM-5720* IFE-MONOCLONAL
___ 11:15PM   HIV Ab-NEG
___ 11:15PM   HCV Ab-NEG
___ 11:15PM   WBC-7.7 RBC-3.01* HGB-8.9* HCT-28.3* MCV-94 
MCH-29.6 MCHC-31.4* RDW-12.6 RDWSD-43.5
___ 11:15PM   NEUTS-57.8 ___ MONOS-13.7* EOS-2.5 
BASOS-1.3* IM ___ AbsNeut-4.44 AbsLymp-1.86 AbsMono-1.05* 
AbsEos-0.19 AbsBaso-0.10*
___ 11:15PM   PLT COUNT-294
___ 11:15PM   SERUM VIS-3.1*
___ 04:48PM   LACTATE-1.1 K+-4.2
___ 04:30PM   GLUCOSE-87 UREA N-21* CREAT-0.8 SODIUM-135 
POTASSIUM-5.9* CHLORIDE-97 TOTAL CO2-26 ANION GAP-12
___ 04:30PM   estGFR-Using this
___ 04:30PM   ALT(SGPT)-12 AST(SGOT)-40 LD(LDH)-435* ALK 
PHOS-118* TOT BILI-0.4
___ 04:30PM   TOT PROT-10.5* ALBUMIN-3.6 GLOBULIN-6.9* 
CALCIUM-9.5 PHOSPHATE-3.5 MAGNESIUM-2.1
___ 04:30PM   Free K-226.4* Free ___ Fr K/L-33.29*
___ 04:30PM   WBC-9.1 RBC-3.16* HGB-9.5* HCT-29.9* MCV-95 
MCH-30.1 MCHC-31.8* RDW-12.7 RDWSD-43.8
___ 04:30PM   NEUTS-63.7 ___ MONOS-13.1* EOS-2.0 
BASOS-1.3* IM ___ AbsNeut-5.81 AbsLymp-1.79 AbsMono-1.20* 
AbsEos-0.18 AbsBaso-0.12*
___ 04:30PM   PLT COUNT-329
___ 04:30PM   ___ PTT-41.7* ___

Micro:
=====
___ 4:30 pm BLOOD CULTURE      #1. 

   Blood Culture, Routine (Pending):    No growth to date. 

Studies:
======
SPECIMEN SUBMITTED: Immunophenotyping: bone marrow aspirate

Procedure date    Tissue received    Report Date   Diagnosed 
by
___. ___/dxj…
DIAGNOSIS:
 
FLOW CYTOMETRY REPORT
FLOW CYTOMETRY IMMUNOPHENOTYPING
 
The following tests (antibodies) were performed: Kappa, Lambda, 
cKappa, cLambda, ___ ___ antigens 2, 3, 4, 5, 7, 8, 10, 
11c, 13, 14, 16, 19, 20, 23, 33, 34, 38, 45, 56, 64, 117 and 
138.
 
RESULTS:
10-color analysis is used to evaluate for leukemia/lymphoma.
Approximately 68.3% of total acquired events are evaluable 
non-debris events.
The viability of the analyzed non-debris events, done by 7-AAD 
is 96.3%.
CD45-bright, low side-scatter gated lymphocytes comprise 16.6% 
of total analyzed events.
B cells represent 19.5% of lymphoid gated events.
B cells demonstrate monoclonal kappa light chain restriction. 
They co-express pan-B cell markers CD19 and CD20. They do not 
express any other characteristic antigens including CD5, CD10, 
CD11c and CD23.
T cells comprise 59.8% of lymphoid gated events and express 
mature lineage antigens (CD3, CD5, CD2 and CD7).
A minor subset (8.5%) of T cells shows dim/variable loss of CD7 
(non-specific finding).
T cells have a CD4:CD8 ratio of 2.1.
There is a population of double-negative (CD4 negative/CD8 
negative) T cells comprising 10.1% of CD3 positive cells which 
is of unclear significance.
CD56 positive, CD3 negative natural killer cells represent 15.7% 
of gated lymphocytes. They co-express CD2, CD7 and CD8 (subset).
No abnormal events are identified in the “blast gate”.
CD38 gated plasma cells represent 0.2% of total analyzed events. 
By intracytoplasmic light chain analysis they are kappa light 
chain restricted. They are positive for CD45, CD138, CD19 
(majority), CD20 (dim subset), CD117 (dim subset) and negative 
for CD56.
 
INTERPRETATION
Immunophenotypic findings consistent with involvement by a B 
cell lymphoma with plasmacytic differentiation. Correlation with 
clinical, morphologic (see separate pathology report ___), 
cytogenetics (see separate cytogenetics report ___) and other 
ancillary findings is recommended. Flow cytometry 
immunophenotyping may not detect all abnormal populations due to 
topography, sampling or artifacts of sample preparation.

___ CT Abd/Pelvis:
1. No evidence of acute abnormality identified within the 
abdomen or pelvis. 
Specifically, no lymphadenopathy or bony lesions identified.
2. For complete description of intrathoracic findings, please 
see dedicated
report of CT chest performed concurrently the same day.

___ CT Chest:
No evidence of adenopathy in the chest.

Discharge Labs:
============
___ 11:15PM BLOOD WBC-7.7 RBC-3.01* Hgb-8.9* Hct-28.3* 
MCV-94 MCH-29.6 MCHC-31.4* RDW-12.6 RDWSD-43.5 Plt ___
___ 11:15PM BLOOD Neuts-57.8 ___ Monos-13.7* 
Eos-2.5 Baso-1.3* Im ___ AbsNeut-4.44 AbsLymp-1.86 
AbsMono-1.05* AbsEos-0.19 AbsBaso-0.10*
___ 11:15PM BLOOD Glucose-92 UreaN-21* Creat-0.9 Na-137 
K-4.0 Cl-100 HCO3-27 AnGap-10
___ 11:15PM BLOOD ALT-9 AST-12 LD(___)-78* AlkPhos-109* 
TotBili-0.3
___ 11:15PM BLOOD TotProt-9.1* Albumin-3.3* Globuln-5.8* 
Calcium-9.4 Phos-3.2 Mg-2.0 Iron-37
___ 11:15PM BLOOD calTIBC-239* VitB12-730 Folate-15 
Hapto-207* Ferritn-58 TRF-184*
___ 11:15PM BLOOD PEP-ABNORMAL B b2micro-2.3* IgG-314* 
IgA-<5* IgM-5720* IFE-MONOCLONAL
___ 04:48PM BLOOD Lactate-1.1 K-4.2
 
Brief Hospital Course:
==================
SUMMARY STATEMENT:
==================
___ w/ anemia found to have elevated IgM monoclonal gammopathy 
concerning for Waldenstrom's Macroglobulinemia with elevated 
serum viscosity but no clinical symptoms of hyperviscosity. 

==============
ACTIVE ISSUES:
==============
# IgM monoclonal Gammopathy
She is suspected to have Waldenstrom's macroglobulinemia,
reassuringly without renal dysfunction, proteinuria,
hypercalcemia, or skeletal lesions. There is concern about her
lightheadedness and dyspnea with exertion as that can be a sign 
of hyperviscosity but her symptoms have been ongoing for years 
and are orthostatic in nature. Reassuringly she has no other 
signs of hyperviscosity on admission (no vision changes, no 
CP/SOB, epistaxis, lightheadedness at rest, or peripheral 
neuropathy). Ophthalmic
exam with small dot-blot hemorrhages in periphery that may be 
associated with hyperviscosity but no notable vessel 
tortuosity/dilation and thus no need for ophthalmic intervention 
currently per ophthalmology. Her serum viscosity on discharge 
was 3.1. CT chest without adenopathy and CT abd/pelvis was still 
pending. She has pending labs including cold agglutinins, 
cryoglobulins, coombs, SPEP and BMBx cytology at time of 
discharge. 

# Normocytic Anemia 
She has been known to have low iron saturation and low-normal
ferritin per her outpatient oncologist, which was confirmed on 
repeat iron studies while inpatient. Waldenstroms tumor 
infiltration in bone marrow can cause cytopenias as could her 
low iron sat. In addition, last colonoscopy was ___ years ago, so 
reasonable to repeat. 

# IBS: Has been managed over past 5+ years with prune and 
benefiber regimen in addition to healthy diet. Continued prunes 
and fiber. 

# Preventative: Aspirin held while inpatient and restarted on 
discharge. 

====================
TRANSITIONAL ISSUES:
==================== 
[] Follow up pending ___ labs, scan, and bone marrow biopsy 
[] Follow up with outpatient oncologist 
[] Repeat CBC at follow up appointment 
[] Consider outpatient colonoscopy once OK by outpatient 
oncologist

Discharge Hgb 8.9
Discharge Cr 0.9

CODE STATUS: Full code 
CONTACT: ___ (Daughter) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO EVERY OTHER DAY 
2. calcium carbonate-vitamin D3 600 mg calcium- 200 unit oral 
DAILY 
3. Vitamin D ___ UNIT PO DAILY 
4. DICYCLOMine 20 mg PO TID 
5. FLUoxetine 20 mg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. dextrin 1.5 g oral BID 
8. Zolpidem Tartrate 5 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1.  Aspirin 81 mg PO EVERY OTHER DAY  
2.  calcium carbonate-vitamin D3 600 mg calcium- 200 unit oral 
DAILY  
3.  dextrin 1.5 g oral BID  
4.  DICYCLOMine 20 mg PO TID  
5.  FLUoxetine 20 mg PO DAILY  
6.  Multivitamins 1 TAB PO DAILY  
7.  Vitamin D ___ UNIT PO DAILY  
8.  Zolpidem Tartrate 5 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
==================
IgM Monoclonal Gammopathy

Secondary Diagnosis:
====================
Anemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___!

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were admitted to the hospital for a workup for your anemia 
and lightheadedness

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- Your blood tests showed a high protein (IgM) level which is 
likely from a type of lymphoma (cancer) called Waldenstroms 
Macroglobulinemia 
- This condition could also explain your anemia (low red blood 
cell counts) and your fatigue
- You also had a CT scan of your body and the final result is 
still pending 
- A bone marrow biopsy was done to confirm this diagnosis and 
help guide treatment moving forward
- You saw the eye doctor while in the hospital that saw some 
findings that could be consistent with Waldenstroms, but nothing 
that would need intervention currently 

WHAT SHOULD I DO WHEN I GO HOME?
- You should follow up with your outpatient oncologist to 
discuss the bone marrow biopsy results and the next steps moving 
forward with treatment
- You also should follow up with the ophthalmologist (eye 
doctor) as this condition has the ability to affect your vision
- You should also get a colonoscopy once your oncologist says it 
is safe to do so

We wish you the best,
Your ___ care team

 
Followup Instructions:
___